US05206257
A mixture of 2-(2,4-dichlorophenyl)-4,5-dicyanoimidazole (10.05 g, 0.038 mol), glacial acetic acid (41 ml), concentrated sulphuric acid (19 ml) and water (9.4 ml) was heated at 120°-125° C. for 1.5 hours. After cooling the mixture was poured into water (300 ml) and the precipitated solid filtered off and dried in vacuo (100° C. at 50 mm Hg) to give 2-(2,4-dichlorophenyl)imidazole-4,5-dicarboxylic acid (10.24 g) m.p. 237.5°-238.5° C. as a white solid.

reactant | 2-(2,4-dichlorophenyl)-4,5-dicyanoimidazole | 0.038 mol, 10.05 g | ClC1=C(C=CC(=C1)Cl)C=1NC(=C(N1)C#N)C#N | C11H4Cl2N4
reactant | acetic acid | 41 ml | C(C)(=O)O | C2H4O2
reactant | sulphuric acid | 19 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 300 ml | O | H2O
reactant | water | 9.4 ml | O | H2O
product | 2-(2,4-dichlorophenyl)imidazole-4,5-dicarboxylic acid | 10.24 g | ClC1=C(C=CC(=C1)Cl)C=1NC(=C(N1)C(=O)O)C(=O)O | C11H6Cl2N2O4
